US09284323B2
Preparation of (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate:
To a solution of (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate in t-BuOAc (150 mL) was added 70% perchloric acid (HClO4) (3.0 mL). After 3 h, water was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes). Upon sitting, crystals formed in the resulting oil that were the desired diastereomer. 1H-NMR: 400 MHz, (CDCl3) δ: 9.11 (s, 1H), 8.39 (s, 1H), 7.48 (m, 2H), 7.10 (s, 1H), 5.46 (s, 1H), 4.66 (m, 2H), 2.53 (s, 3H), 1.71 (m, 2H), 1.62 (m, 2H), 1.36 (m, 2H), 1.32 (s, 9H), 0.80 (m, 7H), 0.60 (d, J=6 Hz, 3H).

reactant | (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)O)[C@@H](C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)O)C | C23H29BrO4
reactant | perchloric acid | 3.0 mL | Cl(=O)(=O)(=O)O | ClHO4
reactant | water | O | H2O
solvent | t-BuOAc | 150 mL | C(C)(C)(C)OC(=O)C | C6H12O2
product | (S)-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl) 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)O)[C@@H](C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)OC(C)(C)C)C | C27H37BrO4
